US04041079
In 5 volume parts of water is dissolved 0.200 part of 3,4-dihydro-2-amino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide and, using 0.050 part of platinum dioxide, the catalytic reduction is carried out in a current of hydrogen gas until a substantially stoichiometric amount of hydrogen gas is absorbed. The catalyst in the reaction mixture is filtered off and to the filtrate is added a mixture of ethyl ether, methanol and water. The procedure gives white prisms of 2-amino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide. Melting point: 190° to 200° C.(decomp.)

reactant | hydrogen | [H][H] | H2
reactant | 3,4-dihydro-2-amino-5,6-dihydroxy-1(2H)-naphthalenone hydrobromide | Br.NC1C(C2=CC=C(C(=C2CC1)O)O)=O
solvent | water | O | H2O
catalyst | platinum dioxide | [Pt](=O)=O
product | 2-amino-1,5,6-trihydroxy-1,2,3,4-tetrahydronaphthalene hydrobromide | Br.NC1C(C2=CC=C(C(=C2CC1)O)O)O | InChI=1S/C10H13NO3.BrH/c11-7-3-1-6-5(9(7)13)2-4-8(12)10(6)14;/h2,4,7,9,12-14H,1,3,11H2;1H
